data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CCl)c([Si](C)(C)CF)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)CF)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CCl)c([Si](C)(C)CF)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(Cl)cc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1cc(Cl)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1cc(Cl)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1cc(Cl)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc(Cl)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc(Cl)cc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(Cl)C2C(F)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(Cl)CC1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(Cl)CC1(F)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1(F)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(Cl)CC1(F)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(Cl)c(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "Cc1cc(Cl)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "Cc1cc(Cl)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "Cc1cc(Cl)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1cc(Cl)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1cc(Cl)c2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1.C=O", "products": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1"}, {"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1", "products": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1"}, {"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1", "products": "C=[N+](O)[C@@H]1C[C@H](COC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C[C@H](COC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C[C@H](COC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C[C@H](COC)C[C@H]2CC=CC[C@H]21", "products": "COC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(F)cc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1ccc(F)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1ccc(F)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)ccc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)ccc1OC", "products": "COc1ccc(F)cc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "CCC12COC(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "CCC12COC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "CCC12COC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2.[O-]C", "products": "CCC12COC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "CCC12COC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2", "products": "CCC12COC(O1)C1C(=O)C12"}, {"reactants": "CCC12COC(O1)C1C(=O)C12.[O-]C", "products": "CCC12COC(O1)C1C2C1([O-])OC"}, {"reactants": "CCC12COC(O1)C1C2C1([O-])OC.CO", "products": "CCC12COC(O1)C(C(=O)OC)C2"}]}
